US06410550B1
D) 10-Azatricyclo[6.3.1.0˜2,7˜]dodeca-2(7),3,5-trien-4-yl cyanide hydrochloride
4-Cyano-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester was treated with 3N HCl EtOAc (6 mL) and warmed to reflux for 2 hours, then concentrated, dissolved in a minimum of MeOH which was saturated with Et2O and stirred 18 hours. The product was collected by filtration (49 mg, 73%). 1H NMR (400 MHz, DMSO-d6) δ9.66 (br s, NH), 7.86 (br s, NH), 7.74-7.70 (m, 2H), 7.49 (d, J=7.5 Hz, 1H), 3.33-2.97 (m, 6H), 2.17 (m, 1H), 2.01 (d, J=11.0 Hz, 1H). GCMS m/e 184 (M+). mp 268-273° C.

reactant | 4-Cyano-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C=3C=CC(=CC3C(C1)C2)C#N | C17H20N2O2
reactant | HCl EtOAc | 3N, 6 mL | Cl.CCOC(=O)C
product | 10-Azatricyclo[6.3.1.0˜2,7˜]dodeca-2(7),3,5-trien-4-yl cyanide hydrochloride | Cl.C12C=3C=C(C=CC3C(CNC1)C2)C#N | InChI=1S/C12H12N2.ClH/c13-5-8-1-2-11-9-4-10(7-14-6-9)12(11)3-8;/h1-3,9-10,14H,4,6-7H2;1H
